US09278910B2
Prepared from INT-60 and INT-18. To a stirring solution of tert-butyl 2-((4-bromobenzyl)amino)acetate INT-60 (2.7 g, 8.99 mmol), 4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid INT-18 (3.18 g, 8.99 mmol) and TEA (2.507 mL, 17.99 mmol) in DMF was added PyBOP (4.91 g, 9.44 mmol) at room temperature. After 2 h the reaction mixture was diluted with EA (200 mL) and washed with 1 M HCl (100 mL), NaHCO3 (200 mL) and brine (200 mL). The organics were dried over MgSO4, pre-absorbed onto silica gel and purified by chromatography (EA/hexanes) to afford 5.2 g (91%) of tert-butyl 2-(N-(4-bromobenzyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)acetate INT-81 as a white foamy solid. LCMS-ESI (m/z) calculated for C30H30BrF3N2O5: 635; found 579/581 [M-tBu+H]+, tR=2.83 min (Method 10).

reactant | tert-butyl 2-((4-bromobenzyl)amino)acetate | BrC1=CC=C(CNCC(=O)OC(C)(C)C)C=C1 | C13H18BrNO2
reactant | 4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid | COC1=CC(=C(C=C1)CC(=O)NC1=CC=C(C(=O)O)C=C1)C(F)(F)F | C17H14F3NO4
reactant | PyBOP | 9.44 mmol, 4.91 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EA | 200 mL | CC(OCC)=O | C4H8O2
product | tert-butyl 2-(N-(4-bromobenzyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)acetate | 5.2 g, 91% | BrC1=CC=C(CN(C(C2=CC=C(C=C2)NC(CC2=C(C=C(C=C2)OC)C(F)(F)F)=O)=O)CC(=O)OC(C)(C)C)C=C1 | C30H30BrF3N2O5
